Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Severe cough for 1 month, as well as fevers/chills, night 
sweats. Worsening pain in the setting of known rib fractures.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year-old man with history of obesity, presenting with fevers, 
chest pain, and dyspnea for 1 month to the ___ ED on ___.

He first presented to PCP at the end of ___. CXR neg, flu 
test neg; he was prescribed course of Tamiflu empirically. He 
returned to ___ without improvement and was given cefuroxime 
500mg x10 days and prednisone 20mg x5 days. He then presented to 
___ ED one week later (___) with extreme right-sided pain 
after violent coughing fit. At that time, he also reported 2 
weeks of soaking night sweats and 14-lb weight loss over 2 
weeks. He was then placed on levofloxacin 750mg and oxycodone 
5mg. His coughing and subjective fevers initially improved on 
the levofloxacin, but then he began to get worse. During one 
violent coughing fit, he passed out, falling forward onto coffee 
table. He reportedly lost consciousness for 3 seconds. No 
preceding lightheadedness/nausea/changes in vision. He felt well 
after awakening. During another episode, he developed new muscle 
pain in the epigastric region during a coughing fit. 

In the ED, initial vitals were: 98.4 117 138/96 18 94% RA  
Exam notable for: pain over right flank and epigastric region, 
tachy, fever at home, oral thrush  
Labs notable for: WBC 10.8, lactate 1.8, FluA/B negative  
EKG: ST @ 111 bpm. NA. IVCD? QTC 441. Q wave in III.  
 
Past Medical History:
 HEMORRHOIDS  
 OBESITY  
 ACL TEAR  
 R  
 ACTINIC KERATOSIS  
 LENTEGINES  
 ACROCHRODON  
 
Social History:
Marital status: Married  
 Children: Yes: 4: 2 son, 2 dtr  
 Work: ___
 Sexual orientation: Female  
 Domestic violence: Denies  
 Tobacco use: Former smoker  
 Alcohol use: Past and Present  
 drinks per week: ___  
 Recreational drugs Denies  
 (marijuana, heroin,  
 crack pills or  
 other):  
 Depression no conecrns.  
 Screening:  
 Depression: Based on a PHQ-2 evaluation, the patient does not 
report symptoms of depression  
 Exercise: Activities: walking.  
 Exercise comments: counseled.  
 Seat belt/vehicle Always  
 restraint use:  
 Bike helmet use: N/A  
 Comments: no guns.  
 
Family History:
 Mother Living ___ EYE ISSUES  
 COLON CANCER  
 Father Living ___ BLADDER CANCER  
 PROSTATE CANCER  
 MGF Deceased CORONARY ARTERY  
 DISEASE  
 Comments: no cad or dm. 10 siblings. diverticulitis. 1 brother  

 has sz d/o.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 VITAL SIGNS: 99.2, 121 / 85  L Sitting, 118, 20, 92 RA  
 GENERAL: Well-appearing, no acute distress  
 HEENT: PERRL. EOMI. Scattered white plaques on tongue  
 NECK: Soft, supple, full ROM.  
 CHEST: TTP over ___ ribs at mid-axillary line  
 CARDIAC: Tachycardic, regular rhythm S1 and S2 without m/r/g  
 LUNGS: No increased WOB. Coarse transmitted upper airway 
sounds, but generally clear throughout without wheeze.  
 ABDOMEN: Normoactive bowel sounds. Soft, non-tender, 
non-distended, no hernia noted  
 EXTREMITIES: Warm, well-perfused without edema  
 NEUROLOGIC: CN2-12 grossly intact. Moves all extremities. AAOx3 
 
 SKIN: No obvious rashes

DISCHARGE PHYSICAL EXAM:
Vitals:  97.5, 129 / 84,  92, 18, 93 RA 
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Mild crackles in RLL base, otherwise clear, no wheezes, 
rales, rhonchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: Mild tenderness to palpation in the epigastrum, just 
below xiphoid. Tenderness to palpation of right ___ ribs. 
Abd non-distended, bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly Intact
 
Pertinent Results:
LABS:  
___ 04:29PM BLOOD Glucose-120* UreaN-14 Creat-0.8 Na-139 
K-4.7 Cl-100 HCO3-22 AnGap-22*
___ 04:29PM BLOOD ___ PTT-29.6 ___
___ 04:29PM BLOOD WBC-10.8* RBC-4.54* Hgb-14.5 Hct-43.3 
MCV-95 MCH-31.9 MCHC-33.5 RDW-11.6 RDWSD-40.0 Plt ___
___ 04:29PM BLOOD Neuts-65 Bands-1 Lymphs-18* Monos-10 
Eos-3 Baso-0 Atyps-1* Metas-2* Myelos-0 AbsNeut-7.13* 
AbsLymp-2.05 AbsMono-1.08* AbsEos-0.32 AbsBaso-0.00*

___ 06:40AM BLOOD WBC-9.4 RBC-4.20* Hgb-13.5* Hct-40.4 
MCV-96 MCH-32.1* MCHC-33.4 RDW-11.9 RDWSD-41.3 Plt ___

___ 05:40AM BLOOD WBC-6.8 RBC-4.18* Hgb-13.4* Hct-40.6 
MCV-97 MCH-32.1* MCHC-33.0 RDW-11.8 RDWSD-41.6 Plt ___

MICROBIOLOGY: 
-Neg Influenza A/B
-Neg Legionella Urinary ant
-Neg for Adeno, Parainfluenza 1, 2, 3, Influenza A, B, and RSV 
by immunofluorescence. 
-Sputum stain- extensive contamination with upper respiratory 
secretions
-MRSA screen PENDING

IMAGING:
CXR (___): Low lung volumes with persistent bibasilar 
streaky opacities likely reflective of atelectasis.  Fractures 
of the right eighth and ninth lateral ribs with increased right 
lateral pleural thickening and probable small right pleural 
effusion, new in the interval. 
 
Brief Hospital Course:
___ M with no sig PMH who presented with subjective fevers, 
night sweats, dyspnea/cough for 1 month, as well as right-sided 
pain ___ rib fracture and new epigastric pain in setting of 
known pneumonia.

#Fevers/shortness of breath/cough
#Community acquired pneumonia
Pt presented with persistent cough and pain despite treatment of 
CAP. Seen by PCP and treated with cefuroxime and steroids 
followed by ED evaluation and discharge with levofloxacin prior 
to this admission. Upon evaluation, CTA was negative for PE and 
demonstrated "ground-glass and ___ nodular opacities 
within the lower lobes bilaterally." Flu and other viral resp 
studies were negative. Sputum stain unremarkable. Low concern 
for TB given recent reported neg TB screen and no risk factors. 
He was treated with IV ceftriaxone and azithromycin x2 days (to 
complete 8 day course), as well as standing guaifenesin, 
codeine, and tessalon. His cough improved greatly. Upon 
discharge, MRSA swab was still pending. Since he had received 
more than a full course of antibiotics with atypical coverage, 
no further antibiotics were necessary. Ultimately we treated him 
with cough suppressants and pain medications, and his sx 
improved. Pt was discharged on cough suppressive regimen, with 
instructions to taper use after 3 days.

#Epigastric/Right-sided pain: Most likely related to known rib 
fractures dx on CT and/or other MSK strain in setting of violent 
coughing. No PE on CTA. EKG without ischemia. Pt was given 
standing ibuprofen and acetaminophen to avoid splinting and was 
encouraged to use incentive spirometry.

#Syncope: Pt reported episode of LOC in setting of coughing fit- 
most likely vasovagal. No history of cardiac disease. EKG WNL. 
Not orthostatic.

#Transitional issues:
-CT showed nodular opacities measuring up to 6 mm in the right 
lower lobe, which should be followed up with a chest CT in ___ 
months if the patient is at low risk for lung malignancy, or ___ 
months if the patient is at high risk.
-Patient given a few days supply codeine for cough suppression 
at discharge; if symptoms do not improve, he may need a refill. 
Also written for nystatin for thrush.
 
Medications on Admission:
This patient was not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 8 hours Disp 
#*15 Tablet Refills:*0 
2.  Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times per day 
Disp #*15 Capsule Refills:*0 
3.  Codeine Sulfate 30 mg PO Q4H 
RX *codeine sulfate 30 mg 1 tablet(s) by mouth every 4 hours 
Disp #*30 Tablet Refills:*0 
4.  GuaiFENesin 15 mL PO Q6H cough 
RX *guaifenesin 100 mg/5 mL 15 ml by mouth q 6 hours Refills:*0 
5.  Ibuprofen 600 mg PO Q8H 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 8 hours Disp 
#*15 Tablet Refills:*0 
6.  Nystatin Oral Suspension 5 mL PO QID Oral thrush 
RX *nystatin 100,000 unit/mL 5 ml by mouth four times a day Disp 
#*9460 Milliliter Milliliter Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
PNEUMONIA 
RIB FRACTURES

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You came to the hospital with severe cough, fevers/chills, night 
sweats, and worsening pain after your rib fractures.

While in the hospital, your cough and pain were controlled with 
a strong cough suppressant regimen: guaifenesen and Tessalon, 
codeine, and Tylenol. You were also given intravenous 
antibiotics.

When you leave the hospital, you will continue the cough 
suppressant regimen for 4 days: guaifenesen every 6 hours, 
codeine every 4 hours, Tessalon 3 times per day, and Tylenol 3 
times per day. After this time, you will decrease the amount you 
take over time. We also wrote you for nystatin for your thrush. 
You will need to follow up with your primary care doctor.

If you continue to have fevers, night sweats, or worsening 
cough, please call your doctor.

It was a pleasure taking care of you!

Your ___ Team
 
Followup Instructions:
___